US04990508
In 10 ml of tert-butyl acetate was dissolved 1.00 g of ethyl 4-(2-carboxycyclopropyl)-2,3,5-trifluorobenzoate. To the resulting solution was added 0.2 ml of a 70% aqueous perchloric acid solution. The resulting mixture was stirred at room temperature for 1 hour. To the reaction mixture were added 40 ml of ethyl acetate and 20 ml of water in this order. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant: n-hexane/toluene=1/1) to obtain 0.81 g (yield: 68.1%) of ethyl 4-(2-tert-butoxycarbonylcyclopropyl)-2,3,5trifluorobenzoate.

reactant | ethyl 4-(2-carboxycyclopropyl)-2,3,5-trifluorobenzoate | 1.00 g | C(=O)(O)C1C(C1)C1=C(C(=C(C(=O)OCC)C=C1F)F)F | C13H11F3O4
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 20 ml | O | H2O
reactant | tert-butyl acetate | 10 ml | C(C)(=O)OC(C)(C)C | C6H12O2
product | ethyl 4-(2-tert-butoxycarbonylcyclopropyl)-2,3,5trifluorobenzoate | 0.81 g, yield: 68.1% | C(C)(C)(C)OC(=O)C1C(C1)C1=C(C(=C(C(=O)OCC)C=C1F)F)F | C17H19F3O4
